US07906541B2
200 mg of 9-benzyl-3-methyl[1,3]thiazolo[3,2-a]benzimidazol-9-ium chloride (0.635 mmol) were solubilised in methanol (25 mL), then 137 mg of NaOMe (4 eq) were added and the solution stirred at room temperature. After 48 h the solvent was evaporated, water was added (20 mL) and the mixture extracted with CH2Cl2 (3×20 mL). The organic layer was dried with MgSO4 and evaporated under reduced pressure. The residue was then purified by chromatography on silica gel (eluent: CH2Cl2) to afford 1-benzyl-3-[(1Z)-1-(methylsulfanyl)prop-1-en-2-yl]-1,3-dihydro-2H-benzimidazol-2-one as a colourless oil (186 mg, 94% yield). 1H NMR (300 MHz, CDCl3) δH 2.18 (3H, d, J=1.1, CH3), 2.26 (3H, s, SCH3), 5.10 (3H, s, NCH2), 6.27 (1H, q, J=1.1, H5), 6.84-7.10 (4H, m, arom), 7.25-7.35 (5H, m, arom); 13C NMR (75 MHz, CDCl3) δC 16.90, 20.44, 44.79, 108.50, 109.00, 121.24, 121.48, 126.61, 127.37, 127.57 (2C), 127.65, 127.69, 128.69 (2C), 129.45, 136.22, 152.34; HRMS m/z calcd C18H19N2OS [M+H]+: 311.1212; found: 311.1211.

reactant | 9-benzyl-3-methyl[1,3]thiazolo[3,2-a]benzimidazol-9-ium chloride | 0.635 mmol, 200 mg | [Cl-].C(C1=CC=CC=C1)[N+]1=C2N(C3=C1C=CC=C3)C(=CS2)C
reactant | NaOMe | 137 mg, 4 eq | C[O-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | 1-benzyl-3-[(1Z)-1-(methylsulfanyl)prop-1-en-2-yl]-1,3-dihydro-2H-benzimidazol-2-one | 186 mg, 94% yield | C(C1=CC=CC=C1)N1C(N(C2=C1C=CC=C2)\C(=C/SC)\C)=O | C18H18N2OS
